Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Levofloxacin
 
Attending: ___.
 
Chief Complaint:
abdominal pain and diarrhea; colitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo female resident ___, with history of dementia, 
initially presented to ___ with complaints of 
abdominal pain. Pt was s/p R hip replacement on ___, and has 
experienced intermittent abdominal pain and diarrhea since then, 
however, symptoms have reportedly worsened over the 3 days prior 
to presentation. For example, pt was experiencing diarrhea while 
attempting to work with ___. Pt's daughter also notes that she 
has had a poor po intake over the past couple weeks as well, and 
has been downgraded to a pureed diet. A KUB was performed in via 
her nursing home, which was reported to show evidence of ileus, 
so pt was sent to ___ for further evaluation. At ___, ___ 
was found to be 15, and CT abd/pelvis was notable for 
"relatively diffuse wall thickening anda abnormal submucosal 
enhancement involving the colon predominantly involving the 
rectosigmoid colon and cecum through the hepatic flexure." Pt 
was treated with IV flagyl and levofloxacin. Pt was subsequently 
transferred to ___ ___ for further care and hospitalization. 
While at ___, pt developed erythema at Levofloxacin 
infusion site, after which she was treated with a dose of 
benedryl. Therefore, at ___ in the ___, pt was treated with IV 
Meropenem given concern for possible allergic reaction.  
.  
ROS:  
Pt unable to answer ROS due to her dementia. Pt's daughter 
states that this is baseline for pt to be unable to answer.  

 
Past Medical History:
# Hx CVA; residual R sided weakness  
# Afib  
# Hx DVT  
# HTN  
# Hyperlipidemia  
# Hypothyroidism  
# Dementia  
# S/p fall and R hip fracture ___ repair ___  
# Depression  

 
Social History:
___
Family History:
Pt unable to provide due to dementia 
 
Physical Exam:
Admission: 
VS: 97.5 122/64 P91 98RA  
GEN: Awakened easily to voice. Appears comfortable, non-toxic.  
HEENT: eomi, perrl, MM somewhat dry.  
Neck: No LAD. JVP WNL.  
RESP: CTA B. No WRR.  
CV: RRR.  
ABD: +BS. Soft, NT/ND.  
Ext: No CEE.  
Neuro: Paucity of speech, unable to answer simple questions, 
unable to provide ROS. However, pt alert and interactive.  

Discharge:
VS: 97.9 145/87  P94 96RA  
GEN: Awakened easily to voice. Appears comfortable, non-toxic.  
HEENT: eomi, perrl, MM somewhat dry.  
Neck: No LAD. JVP WNL.  
RESP: CTA B. No WRR.  
CV: RRR.  
ABD: +BS. Soft, moderately TTP L abdomen.  
Ext: No CEE.  
Neuro: Paucity of speech, unable to answer simple questions, 
unable to provide ROS. However, pt alert and interactive.  

 
Pertinent Results:
CT Abd/Pelvis ___ (OSH):  
There is relatively diffuse wall thickening and abnormal 
submucosal enhancement involving the colon predominantly 
involving the rectosigmoid colon and cecum through the hepatic 
flexure. No pneumatosis or free air. No evidence of bowel 
obstruction. No significatn free fluid in the abdomen or pelvis. 
NO focal fluid collection. Findings are most suggestive of 
colitis -- inflammatory, infectious and ischemic etiologies 
should be considered.  
__________________________________________________
___ 10:55AM BLOOD WBC-14.8* RBC-3.72* Hgb-11.7* Hct-35.5* 
MCV-96 MCH-31.5 MCHC-33.0 RDW-13.5 Plt ___
___ 07:55AM BLOOD WBC-12.1* RBC-3.58* Hgb-11.1* Hct-34.9* 
MCV-98 MCH-31.0 MCHC-31.8 RDW-14.3 Plt ___
___ 07:45AM BLOOD WBC-9.4 RBC-3.37* Hgb-10.6* Hct-32.4* 
MCV-96 MCH-31.4 MCHC-32.7 RDW-13.4 Plt ___
___ 08:00AM BLOOD ___ PTT-40.0* ___
___ 10:55AM BLOOD Glucose-119* UreaN-20 Creat-0.9 Na-142 
K-3.7 Cl-110* HCO3-21* AnGap-15
___ 07:55AM BLOOD Glucose-102* UreaN-13 Creat-0.7 Na-137 
K-3.9 Cl-109* HCO3-22 AnGap-10
___ 10:55AM BLOOD ALT-14 AST-22 AlkPhos-124* TotBili-0.5
___ 07:55AM BLOOD ALT-9 AST-16 AlkPhos-108* TotBili-0.4
___ 10:55AM BLOOD Lipase-35
___ 10:55AM BLOOD Albumin-3.1* Calcium-9.1 Phos-4.1 Mg-2.1
___ 07:55AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.9
______________________________________
___ 4:21 pm STOOL     CONSISTENCY: SOFT      Source: Stool. 


   C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___. ___ ___, 1:10PM. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 

   FECAL CULTURE (Preliminary): 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

 
Brief Hospital Course:
___ yo female with hx dementia, afib, hx stroke with residual 
defecits, presented approx 3.5 weeks after pinning of a R hip 
fracture with complaints of diarrhea, poor po intake, and 
complaints of abdominal pain. CT abd/pelvis at OSH concerning 
for colitis of uncertain etiology. Pt was provided a dose of 
meropenem in the ___, considering the patient had a localized 
reaction at her levofloxacin infusion site at the OSH.  Upon 
arrival to the Medicine service, antibiotics were initially held 
given the uncertain nature of her colitis.  Stool samples were 
challenging to obtain due to her dementia and fecal 
incontinence, however, stool studies eventually revealed 
positive c-diff.  Pt's c-diff colitis was treated with flagyl; 
she was prescribed oral flagyl, however, she was provided doses 
of IV flagyl when she refused oral antibiotics (which was most 
of her doses).  Given the unreliability of her taking oral 
flagyl, a PICC line was placed to administer IV flagyl for times 
when she refuses oral flagyl.  Oral doses should be preferred 
when she will take it, and the IV flagyl should be used when 
unable to get her to take it orally.  She should receive a 14 
day course of flagyl.
.  
She was noted to have decreased oral intake prior to her 
hospitalization, as well as during the hospitalization.  She was 
given IV fluids initially, and then was encouraged to increase 
her oral intake.  Her oral intake should be monitored closely, 
and nutritional supplements should be provided as necessary. 
.  
# Afib  
# Hx DVT  
# Hx CVA; residual R sided weakness  
- continued warfarin.  Her INR was subtherapeutic during this 
hospitalization.  She was provided Warfarin 2 mg po q1600 during 
the hospitalization.  Please note that she was started on flagyl 
during this admission, which can be expected to increase the 
effect of warfarin.  Please follow INR closely and titrate dose 
as needed. 
- will likely need to reduce warfarin dose in setting of flagyl  

- contin SQ heparin while subtherapeutic  
.  
# HTN  
# Hyperlipidemia  
- continued Simvastatin  
.  
# Hypothyroidism  
- continued levothyroxine  
.  
# Dementia  
- continued trazodone  
.  
# S/p fall and R hip fracture ___ repair ___  
- fall precautions  
.  
# Depression  
- continued trazodone  
.  
.  
CODE: DNR/DNI  
HCP: Daughter ___: (H) ___ (C) ___  
(W) ___  
PPx: Heparin SQ while INR subtherapeutic  
DISP: discharged back to ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 75 mg PO DAILY 
2. Simvastatin 10 mg PO HS 
3. Acetaminophen 650 mg PO TID 
4. traZODONE 25 mg PO HS 
5. Omeprazole 20 mg PO DAILY 
6. Levothyroxine Sodium 37.5 mcg PO DAILY 
7. Vitamin D 50,000 UNIT PO Q1MO 
on ___ of month. 
8. OxycoDONE (Immediate Release)  2.5 mg PO TID 
9. Polyethylene Glycol 17 g PO DAILY 
10. Bisacodyl 10 mg PO DAILY:PRN constipation 
11. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
12. traZODONE 25 mg PO TID:PRN anxiety 
Warfarin: dose fluctuating recently, but generally on ___ mg po 
q day
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Levothyroxine Sodium 37.5 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Sertraline 75 mg PO DAILY 
5. Simvastatin 10 mg PO HS 
6. traZODONE 25 mg PO HS 
7. Warfarin 2 mg PO DAILY16 
8. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg IV Q8H:PRN refusal to take oral 
flagyl 
Use the IV form if unable to get patient to take medication 
orally. 
RX *metronidazole in NaCl (iso-os) 500 mg/100 mL 1 infusion 
three times a day Disp #*42 Bag Refills:*0
10. Bisacodyl 10 mg PO DAILY:PRN constipation 
11. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
12. OxycoDONE (Immediate Release)  2.5 mg PO TID 
13. Polyethylene Glycol 17 g PO DAILY 
14. traZODONE 25 mg PO TID:PRN anxiety 
15. Vitamin D 50,000 UNIT PO Q1MO 
on ___ of month. 
16. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Colitis, c-diff 

Secondary
# Afib  
# Hx DVT  
# Hx CVA; residual R sided weakness 
# HTN  
# Hyperlipidemia  
# Dementia 
# S/p fall and R hip fracture ___ repair ___
# Depression

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were hospitalized with diarrhea and abdominal pain, and you 
were found to have c-diff infection.  You are being treated with 
antibiotics.  It is important that you complete the course of 
antibiotics.

 
Followup Instructions:
___